datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN1C(N)=NC(=O)c2[nH]c[n:10]c21.O=C(N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20])c1cccc2c1OCCO2>>CN1C(N)=NC(=O)c2[nH]c[n+:10]([H:20])c21.O=C(N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1)c1cccc2c1OCCO2 10=20;20,21=21",
"CC(O)[O-:10].C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CC(O)[O:10][H:20].C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"Cc1cc(N)c([O:21][H:20])cc1C.c1ccc(-c2cccc3ccc([O-:10])cc23)cc1>>Cc1cc(N)c([O-:21])cc1C.c1ccc(-c2cccc3ccc([O:10][H:20])cc23)cc1 10=20;20,21=21",
"CC[NH:10]Cc1ccc(C)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Clc1ccccc1[O-:10].OCCNC1CC[N+:21](Cc2ccccc2)([H:20])CC1>>Clc1ccccc1[O:10][H:20].OCCNC1CC[N:21](Cc2ccccc2)CC1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(CN)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(CN)[NH2+:10][H:20] 10=20;20,21=21",
"CCc1cccc2ccc([O-:10])cc12.O=C(C1CCCC[NH2+]1)[O:21][H:20]>>CCc1cccc2ccc([O:10][H:20])cc12.O=C(C1CCCC[NH2+]1)[O-:21] 10=20;20,21=21",
"Cc1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1.N#Cc1cc(-c2ccccc2)nnc1NCC[N:10]1CCOCC1>>Cc1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1.N#Cc1cc(-c2ccccc2)nnc1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"Brc1cc(Br)cc([NH2+:21][H:20])c1.O=C([O-])[C@H]1CCCC[C@@H]1[NH2:10]>>Brc1cc(Br)cc([NH2:21])c1.O=C([O-])[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"O=C([O-])[C@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>O=C([O-])[C@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O-:10])c3[C@H](C2)N1C.C[N+:21](C)(CCC#N)[H:20]>>COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O:10][H:20])c3[C@H](C2)N1C.C[N:21](C)CCC#N 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]CCC(=O)[O-])cc1.Clc1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1>>Cc1ccc(S(=O)(=O)[N:10](CCC(=O)[O-])[H:20])cc1.Clc1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1 10=20;20,21=21",
"Nc1nc([O:21][H:20])[nH+]c2nc[nH]c12.[NH3+]CC[N:10]1CCOCC1>>Nc1nc([O-:21])[nH+]c2nc[nH]c12.[NH3+]CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"NC1=[NH+][C@H]2C[C@@H](N1)[NH+:21]([H:20])[C@@H]2C(=O)[O-].O=C1C=CC=CC=C1[O-:10]>>NC1=[NH+][C@H]2C[C@@H](N1)[NH:21][C@@H]2C(=O)[O-].O=C1C=CC=CC=C1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C(C)(C)C)c([O-:10])c(C(C)(C)C)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C(C)(C)C)c([O:10][H:20])c(C(C)(C)C)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)CC(C(=O)[O-])[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)CC(C(=O)[O-])[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N:21](c2ccn(-c3ccc([N+](=O)[O-])cc3)n2)[H:20])cc1.Nc1nc2nc[nH]c2c([O-:10])[nH+]1>>Nc1ccc(S(=O)(=O)[N-:21]c2ccn(-c3ccc([N+](=O)[O-])cc3)n2)cc1.Nc1nc2nc[nH]c2c([O:10][H:20])[nH+]1 10=20;20,21=21",
"O=C(CC[N:10]1CCOCC1)C(c1ccccc1)c1ccccc1.O=C([O-])CCC#CC#CCCC[NH2+:21][H:20]>>O=C(CC[N+:10]1([H:20])CCOCC1)C(c1ccccc1)c1ccccc1.O=C([O-])CCC#CC#CCCC[NH2:21] 10=20;20,21=21",
"CCC(O)C[N:10](CC)CC(O)CC.Cc1c[n+:21]([H:20])c(N(C)C)s1>>CCC(O)C[N+:10](CC)(CC(O)CC)[H:20].Cc1c[n:21]c(N(C)C)s1 10=20;20,21=21",
"CC(=O)SCC[N+:21](C)(C)[H:20].COC(=O)CSC(C)[O-:10]>>CC(=O)SCC[N:21](C)C.COC(=O)CSC(C)[O:10][H:20] 10=20;20,21=21",
"CC(C#N)C(=O)[O:21][H:20].O=C(O)[C@H]1CC[C@@H](C(=O)[O-:10])[Se]1>>CC(C#N)C(=O)[O-:21].O=C(O)[C@H]1CC[C@@H](C(=O)[O:10][H:20])[Se]1 10=20;20,21=21",
"C=CC[N+:21](CC(C)O)(CC(C)O)[H:20].Oc1ccc(-c2nnn[n-:10]2)cc1>>C=CC[N:21](CC(C)O)CC(C)O.Oc1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"CC(=O)Sc1ccc([O:21][H:20])cc1.CCCCCP(=O)(CCCCC)[O-:10]>>CC(=O)Sc1ccc([O-:21])cc1.CCCCCP(=O)(CCCCC)[O:10][H:20] 10=20;20,21=21",
"CC(=NO)/C(C)=N/[O:21][H:20].C[NH+](C)CCNCC[NH2:10]>>CC(=NO)/C(C)=N/[O-:21].C[NH+](C)CCNCC[NH2+:10][H:20] 10=20;20,21=21",
"C/C(=N/[O:21][H:20])c1ccc([O-])cc1O.NCCSCC[NH2:10]>>C/C(=N/[O-:21])c1ccc([O-])cc1O.NCCSCC[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)C(O)[O-:10].C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20]>>CN(C)C(O)[O:10][H:20].C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-] 10=20;20,21=21",
"COC(=O)C1C[N+:21]2([H:20])CCC1CC2.OCC[N:10](CCO)CCc1nnn[nH]1>>COC(=O)C1C[N:21]2CCC1CC2.OCC[N+:10](CCO)(CCc1nnn[nH]1)[H:20] 10=20;20,21=21",
"CCC[N+:21](N)(CCC)[H:20].CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1>>CCC[N:21](N)CCC.CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1 10=20;20,21=21",
"CCCC[NH2+]CC[NH2:10].O=Cc1ncnc2c1[nH]c[n+:21]2[H:20]>>CCCC[NH2+]CC[NH2+:10][H:20].O=Cc1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCn1cc[n+:21]([H:20])c1C.c1ccc(CC[NH2:10])cc1>>CCCn1cc[n:21]c1C.c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
